US04238611
7,8-Dichloro-10-piperazino-10,11-dihydrodibenzo(b,f)thiepine
The same product was prepared by the following procedure: A mixture of crude 7,8-dichloro-10-(4-ethoxycarbonylpiperazino)-10,11-dihydrodibenzo(b,f)thiepine (3.5 g) (prepared according to the preceding Example), potassium hydroxide (1.75 g) and ethanol (3.5 ml) was refluxed for 3 hours in a bath heated to 120°-125° C. The reaction mixture was cooled and shaken with benzene and water. The isolation procedure is the same as described in the preceding Examples, yielding the crude base in an almost theoretical yield. On crystallization from acetone it melts at 131°-133° C.

reactant | 7,8-dichloro-10-(4-ethoxycarbonylpiperazino)-10,11-dihydrodibenzo(b,f)thiepine | 3.5 g | ClC1=CC2=C(C(CC3=C(S2)C=CC=C3)N3CCN(CC3)C(=O)OCC)C=C1Cl | C21H22Cl2N2O2S
reactant | potassium hydroxide | 1.75 g | [OH-].[K+]
reactant | ethanol | 3.5 ml | C(C)O | C2H6O
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 7,8-Dichloro-10-piperazino-10,11-dihydrodibenzo(b,f)thiepine | ClC1=CC2=C(C(CC3=C(S2)C=CC=C3)N3CCNCC3)C=C1Cl | C18H18Cl2N2S
